US09302991B2
<Step-3>:(R)-2-methyl-N-(1-(4-(perfluoroethoxy)phenyl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 78% yield (812 mg, a yellow oil) from 1-(4-(perfluoroethoxy)phenyl)ethanone (737 mg, 2.90 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(perfluoroethoxy)phenyl)ethanone | 2.90 mmol, 737 mg | FC(C(F)(F)F)(OC1=CC=C(C=C1)C(C)=O)F | C10H7F5O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(4-(perfluoroethoxy)phenyl)ethyl)propane-2-sulfinamide | 78% yield | CC(C)(C)[S@@](=O)NC(C)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C14H18F5NO2S
